* Z:\home\bean\RadioNotes\Draft2.asc
Q1 N003 N002 0 0 2N3904
R1 N001 N003 70
V1 N004 0 PULSE(0 3.3 0 1n 1n {0.5/freq} {1/freq})
R2 N002 N004 660
V2 N001 0 12
R3 N002 0 300
C1 N004 N002 120p
.model NPN NPN
.model PNP PNP
.lib C:\users\bean\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 10u 9u
.param freq 28074000
.backanno
.end
