* Z:\home\bean\RadioNotes\Draft2.asc
Q1 N003 N005 0 0 2N3904
R1 N001 N003 376
V1 N004 0 PULSE(0 3.3 0 1n 1n {0.5/freq} {1/freq})
R2 N005 N004 825
V2 N001 0 12
Q2 N002 NC_01 0 0 2N3904
R4 N001 N002 200
R3 N005 0 300
.model NPN NPN
.model PNP PNP
.lib C:\users\bean\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 10u 9u
.param freq 2807400
.model BS170 VDMOS VTO=1.824 RG=270 RS=1.572 RD=1.436 RB=.768 KP=.1233 Cgdmax=20p Cgdmin=3p CGS=28p Cjo=35p Rds=1.2E8 IS=5p Bv=60 Ibv=10u Tt=161.6n
.backanno
.end
