* Z:\home\bean\RadioNotes\Draft2.asc
Q1 N002 N004 N005 0 2N3904
R1 N001 N002 500
V1 N003 0 PULSE(0 3.3 0 2n 2n {0.5/freq} {1/freq})
R2 N004 N003 500
V2 N001 0 12
R3 N001 N004 4.7k
R6 N005 0 50
R7 N004 0 330
C1 N005 0 10n
.model NPN NPN
.model PNP PNP
.lib C:\users\bean\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 10u 9u
.param freq 28074000
.model BS170 VDMOS VTO=1.824 RG=270 RS=1.572 RD=1.436 RB=.768 KP=.1233 Cgdmax=20p Cgdmin=3p CGS=28p Cjo=35p Rds=1.2E8 IS=5p Bv=60 Ibv=10u Tt=161.6n
.backanno
.end
