* Z:\home\bean\RadioNotes\Draft2.asc
Q1 N003 N006 N007 0 2N3904
R1 P001 N003 330
V1 N005 0 PULSE(0 3.3 0 2n 2n {0.5/freq} {1/freq})
R2 N006 N005 330
V2 N001 0 12
R3 N002 N006 3.3k
R6 N007 0 50
R7 N006 0 330
Q2 P002 N004 N008 0 2N3904
R4 N001 P002 100
R5 N008 0 20
R8 N004 0 100
R9 P003 N004 1k
L1 N001 P001 10n
L2 N001 N002 10n
L3 N001 P003 10n
C1 N004 N003 10p
.model NPN NPN
.model PNP PNP
.lib C:\users\bean\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 10u 9u
.param freq 28074000
.model BS170 VDMOS VTO=1.824 RG=270 RS=1.572 RD=1.436 RB=.768 KP=.1233 Cgdmax=20p Cgdmin=3p CGS=28p Cjo=35p Rds=1.2E8 IS=5p Bv=60 Ibv=10u Tt=161.6n
.backanno
.end
